US04624699
Into a solution of 3-chloro-2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4,5,6,7-tetrahydro-2H-indazole (30 mg) in dimethylformamide (1 ml), there were added potassium carbonate (10 mg) and ethyl bromoacetate (20 mg), and the mixture was stirred at 80° C. for 3 hours. After cooling, water was added to the reaction mixture, followed by extraction with ether. The ether layer was washed with water twice, dried and concentrated. The residue was purified by thin layer chromatography to give 1.8 mg of 3-chloro-2-(4-chloro-2-fluoro-5-ethoxycarbonylmethoxyphenyl-4,5,6,7-tetrahydro-2H-indazole (Compound No. 1) as a glassy substance.

reactant | 3-chloro-2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4,5,6,7-tetrahydro-2H-indazole | 30 mg | ClC=1N(N=C2CCCCC12)C1=C(C=C(C(=C1)O)Cl)F | C13H11Cl2FN2O
reactant | potassium carbonate | 10 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 20 mg | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-chloro-2-fluoro-5-ethoxycarbonylmethoxyphenyl-4,5,6,7-tetrahydro-2H-indazole | ClC1=CC(=C(C=C1OCC(=O)OCC)N1N=C2CCCCC2=C1)F | C17H18ClFN2O3
